US07750163B2
5.2 1-Benzyl-2-{(1E,3E,5E)-5-[1-(5-carboxypentyl)-3-methyl-5-sulpho-3-(4-sulphobutyl)-1,3-dihydro-2H-indol-2-ylidene]penta-1,3-dienyl}-3-methyl-3-(4 sulphobutyl)-3H-indolium-5-sulphonate
1-Benzyl-2,3-dimethyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate salt (2 g), 1-(5-carboxypentyl)-2,3-dimethyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate (2 g) and malonaldehyde bis-phenylimine (2 g) were dissolved in acetic acid: pyridine: acetic anhydride (4.5:4.5:1) (100 ml). The mixture was heated at 90° C. for 2 hours. The mixture went blue/green immediately. A small sample was diluted in water for UV measurement. UV/Vis is absorption spectroscopy observed a peak at 650 nm showing formation of Cy5. The reaction mixture was stored overnight at +2° C. The mixture was rotary evaporated to yield an oil. This was pumped under vacuum for several hours to ensure dryness. The sticky solid washed with acetonitrile (4×500 ml) to yield a dry powder that was filtered and washed with more acetonitrile. The solid was dried under vacuum. Yield: 3.05 g.

reactant | 1-Benzyl-2,3-dimethyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate | 2 g | C(C1=CC=CC=C1)[N+]1=C(C(C2=CC(=CC=C12)S(=O)(=O)[O-])(CCCCS(=O)(=O)O)C)C | C21H25NO6S2
reactant | 1-(5-carboxypentyl)-2,3-dimethyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate | 2 g | C(=O)(O)CCCCC[N+]1=C(C(C2=CC(=CC=C12)S(=O)(=O)[O-])(CCCCS(=O)(=O)O)C)C | C20H29NO8S2
reactant | acetic acid pyridine acetic anhydride | 100 ml | C(C)(=O)O.N1=CC=CC=C1.C(C)(=O)OC(C)=O
solvent | water | O | H2O
product | 1-Benzyl-2-{(1E,3E,5E)-5-[1-(5-carboxypentyl)-3-methyl-5-sulpho-3-(4-sulphobutyl)-1,3-dihydro-2H-indol-2-ylidene]penta-1,3-dienyl}-3-methyl-3-(4 sulphobutyl)-3H-indolium-5-sulphonate | C(C1=CC=CC=C1)[N+]1=C(C(C2=CC(=CC=C12)S(=O)(=O)[O-])(CCCCS(=O)(=O)O)C)\C=C\C=C\C=C/1\N(C2=CC=C(C=C2C1(CCCCS(=O)(=O)O)C)S(=O)(=O)O)CCCCCC(=O)O | C44H54N2O14S4
